US04999377
4-[2-(N-Benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenol (5.1 g) was added to a stirred solution of potassium t-butoxide (1.57 g) in dimethoxyethane (100 ml). To the resulting solution was added N,N-diethylchloroacetamide (2.1 g) and the mixture was stirred for two hours. The mixture was diluted with ether (300 ml) and washed with brine (2×20 ml). The solution was dried (MgSO4) and evaporated under reduced pressure to yield the crude intermediate (12.5 g). The crude intermediate was purified by chromatography on K60 silica (225 g) using a gradient mixture of methanol and dichloromethane (1% to 3% of methanol) to give N,N-diethyl-4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]-phenoxyacetamide (6.6 g) as a gum. The gum was dissolved in methanol (400 ml) and treated with 10% palladium on carbon (380 mg). The mixture was stirred under an atmosphere of hydrogen for 4 hours. The catalyst was removed by filtration through Kieselguhr, and the filtrate evaporated to give the product (5.0 g) as a colourless oil, which was dissolved in dichloromethane (300 ml) and acidified to pH3with ethereal hydrogen chloride. The solvent was removed by evaporation and replaced with fresh dichloromethane which also was evaporated. The residual gum was dissolved in methyl acetate from which it crystallised as N,N-diethyl-4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]phenoxyacetamide hydrochloride (4.49 g) m.p. 113°-5° C.; NMR: 1.05[t,3H, CH3 ]; 1.15[t,3H, CH3 ]; 2.90-3.08[m,2H, CH2C6H4 ]; 3.08-3.45(m,8H, CH2NCH2 +CH2NHCH2 ]; 4.0[m,2H,PhOCH2 ]; 4.25[m,CHOH]; 4.75[s,2H,OCH2CO]; 6.85-7.05[m,5H, aromatic H]; 7.25-7.4[m,4H, aromatic H]: microanalysis: found: C, 62.9; H,7.6; N, 6.1; Cl 8.3%; C23H32N2O4.HCl requires: C, 63.2; H,7.6; N, 6.4; Cl 8.1%.

reactant | 4-[2-(N-Benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenol | 5.1 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=C1)O)CCC1=CC=C(C=C1)O | C24H27NO3
reactant | potassium t-butoxide | 1.57 g | CC(C)([O-])C.[K+]
reactant | N,N-diethylchloroacetamide | 2.1 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | ether | 300 ml | CCOCC | C4H10O
product | N,N-diethyl-4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]-phenoxyacetamide | 6.6 g | C(C)N(C(COC1=CC=C(C=C1)CCN(CC(COC1=CC=CC=C1)O)CC1=CC=CC=C1)=O)CC | C30H38N2O4
